### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): lemmas about `smul` for power series

### PR DESCRIPTION
**Pull request by vasnesterov**
* Prove `radius_le_smul` and `radius_smul_eq` stating that `c • p` converges on the same ball as `p`.
* Prove `HasFPowerSeriesOnBall.const_smul` (and variations) stating that scalar multiplication preserves series' convergence on the same ball.
* Add `smul_apply` simp-lemma for `FormalMultilinearSeries`.
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 1]
```diff
@@ -469,10 +469,40 @@ section
 
 variable {𝕜' : Type*} [NormedField 𝕜'] [NormedSpace 𝕜' G] [SMulCommClass 𝕜 𝕜' G]
 
-theorem opNorm_smul_le (c : 𝕜') (f : ContinuousMultilinearMap 𝕜 E G) : ‖c • f‖ ≤ ‖c‖ * ‖f‖ :=
-  (c • f).opNorm_le_bound (mul_nonneg (norm_nonneg _) (opNorm_nonneg _)) fun m ↦ by
-    rw [smul_apply, norm_smul, mul_assoc]
-    exact mul_le_mul_of_nonneg_left (le_opNorm _ _) (norm_nonneg _)
+@[simp]
+theorem opNorm_smul_eq (f : ContinuousMultilinearMap 𝕜 E G) (c : 𝕜') : ‖c • f‖ = ‖c‖ * ‖f‖ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:473]: I don't think this change is useful: the lemma `opNorm_smul_le` is only used to get the normed space structure, and once you have it the general lemma `norm_smul` applies.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 2]
```diff
@@ -327,6 +327,39 @@ theorem min_radius_le_radius_add (p q : FormalMultilinearSeries 𝕜 E F) :
...
+  intro n
+  rw [mul_assoc]
+  apply mul_le_mul_of_nonneg_left
+  · apply h
+  · simp
+
+theorem radius_smul_eq (p : FormalMultilinearSeries 𝕜 E F) {c : 𝕜}
+    (hc : c ≠ 0) : (c • p).radius = p.radius := by
+  apply eq_of_le_of_le _ radius_smul_ge
+  simp only [radius, smul_apply, ContinuousMultilinearMap.opNorm_smul_eq]
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean:349]: Instead of doing the same proof again, can you argue that `p = c^{-1} * (c * p)` and apply again your lemma above?

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 3]
```diff
@@ -327,6 +327,39 @@ theorem min_radius_le_radius_add (p q : FormalMultilinearSeries 𝕜 E F) :
 theorem radius_neg (p : FormalMultilinearSeries 𝕜 E F) : (-p).radius = p.radius := by
   simp only [radius, neg_apply, norm_neg]
 
+theorem radius_smul_ge {p : FormalMultilinearSeries 𝕜 E F} {c : 𝕜} : p.radius ≤ (c • p).radius := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Basic.lean:330]:
```suggestion
theorem radius_le_smul {p : FormalMultilinearSeries 𝕜 E F} {c : 𝕜} : p.radius ≤ (c • p).radius := by
```
The symbols in the name should match the symbols in the statement. There is no `ge` in the statement, so you should use `le` in the name.

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 4]
```diff
@@ -73,14 +73,18 @@ the `simpNF` linter incorrectly claims this lemma can't be applied by `simp`.
 theorem zero_apply (n : ℕ) : (0 : FormalMultilinearSeries 𝕜 E F) n = 0 := rfl
 
 @[simp]
-theorem neg_apply (f : FormalMultilinearSeries 𝕜 E F) (n : ℕ) : (-f) n = - f n := rfl
+theorem add_apply (f g : FormalMultilinearSeries 𝕜 E F) (n : ℕ) : (f + g) n = f n + g n := rfl
 
 @[simp]
-theorem add_apply (p q : FormalMultilinearSeries 𝕜 E F) (n : ℕ) : (p + q) n = p n + q n := rfl
+theorem neg_apply (f : FormalMultilinearSeries 𝕜 E F) (n : ℕ) : (-f) n = - f n := rfl
```
[the remark this answers is not in the document]
Comment (vasnesterov) [reply Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:79]: Yes, it happened because I added these lemmas in my PR, and then some other PR with them had merged.

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 5]
```diff
@@ -327,6 +327,28 @@ theorem min_radius_le_radius_add (p q : FormalMultilinearSeries 𝕜 E F) :
...
+  intro C
+  use ‖c‖ * C
+  apply iSup_mono'
+  intro h
+  simp
+  intro n
+  rw [norm_smul c (p n), mul_assoc]
+  apply mul_le_mul_of_nonneg_left
+  · apply h
+  · simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Basic.lean:344]: Here I just put all the `iSup_mono` applications on a single line (`refine` is nice for this sort of thing), I squeezed the non-terminal `simp`, and used `gcongr` instead of calling `mul_le_mul_of_nonneg_left` directly.
```suggestion
  simp only [radius, smul_apply]
  refine iSup_mono fun r ↦ iSup_mono' fun C ↦ ⟨‖c‖ * C, iSup_mono' fun h ↦ ?_⟩
  simp only [le_refl, exists_prop, and_true]
  intro n
  rw [norm_smul c (p n), mul_assoc]
  gcongr
  exact h n
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! Just some minor changes to the proof of `radius_le_smul`. Please wait for CI to finish before merging.

bors d+
